US05942511
Synthesis of 3-(2-methylphenoxy)-6-allylthiopyridazine
0.23 g(0.01 mol) of metallic sodium was dissolved in 30 ml of dry o-cresol. To the resulting solution was added 1.87 g(0.01 mol) of 3-chloro-6-allylthiopyridazine. The reaction solution was stirred for 5 hours at 100±5° C. and then treated according to the same manner as Example 23 to obtain the title compound as a pale white needle crystal.

reactant | sodium | 0.01 mol, 0.23 g | [Na] | Na
reactant | 3-chloro-6-allylthiopyridazine | 0.01 mol, 1.87 g | ClC=1N=NC(=CC1)SCC=C | C7H7ClN2S
reactant | o-cresol | 30 ml | C1(=CC=CC=C1O)C | C7H8O
product | 3-(2-methylphenoxy)-6-allylthiopyridazine | CC1=C(OC=2N=NC(=CC2)SCC=C)C=CC=C1 | C14H14N2OS
